datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])([H:16])([H:17])[H:18]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:16])([H:17])[H:18])([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24],89.2029
[O:0]([O:1][H:3])[H:2].[S:4][H:5]>>[H:2][S:4][H:5].[O:0][O:1][H:3],36.266912
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],30.0202
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:21]>>[C:0]([C:1]1[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:10][H:21],12.079208
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[H:32])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:29])([H:30])[H:31])([C:28]([H:33])([H:34])[H:35])[H:32])[H:14])([H:12])[H:13],18.6188
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([c:7]1[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]1[H:22])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[S:3])[H:16])[H:4].[C:5]([C:6]([c:7]1[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]1[H:22])[H:17])([H:13])([H:14])[H:15],74.8936
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[S:6]=[C:7]([C:8]([S:9][H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[S:6])[H:10])([S:9][H:12])[H:11],237.275
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:11])[H:10],67.4042
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]=[C:7]([C:8]([S:9][H:13])([H:11])[H:12])[H:10]>>[C:0]([C:1](=[S:2])[H:11])([H:3])([H:4])[H:5].[S:6]=[C:7]([C:8]([S:9][H:13])[H:12])[H:10],26.7776
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])[C:7]1([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:10],119.202
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])[H:12])([H:8])([H:9])[H:10].[H:11][H:24],18.740136
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3](=[C:4]([H:11])[H:12])[O:5][O:6][H:13])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1](=[C:2]([H:9])[H:10])[C:3](=[C:4]([H:11])[H:12])[O:5]1.[O:6][H:13],63.806
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:14])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:16])[H:15])([H:11])([H:12])[H:13],53.4297
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15]([H:24])([H:25])[H:26])[c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:22])[H:23])([C:15]([H:24])([H:25])[H:26])[c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])[H:5],53.8481
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[S:12]=[C:13][S:14][H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13](=[S:12])[S:14][H:15],38.0744
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:20])[H:19])([H:15])([H:16])[H:17],80.7512
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([S:9][H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7]([C:8]([S:9][H:15])[H:14])([H:10])([H:11])[H:12],19.2464
